US09145530B2
Step 1: N,N′-((ethane-1,2-diylbis(oxy))bis(ethane-2,1-diyl))bis(4-methylpentan-2-amine)
A 1 liter 3 necked round bottomed flask fitted with condenser, mechanical stirrer, dropping funnel, thermocouple and nitrogen inlet at <20 mL/min was charged with 20 g (0.1350 mol) of 2,2′-(ethylenedioxy)bis(ethylamine) in 450 mL of dichloromethane. STAB (31.44 g) was added with stirring. 31.0 g of 4-methyl-2-pentanone was then added drop-wise to the suspension over 40 mins. After cooling to 23° C. with an ice bath the mixture was stirred at room temperature for about 1.5 hours and left standing for a further day. The crude product was stirred with a mixture of saturated aqueous sodium carbonate solution (30%) (120 ml) and water (60 ml). The aqueous phase was diluted with water (100 ml), shaken, separated and washed with DCM (50 ml). The combined organic phase was washed with water (2×150 ml). It was then dried by shaking with magnesium sulphate and filtered.

reactant | 2,2′-(ethylenedioxy)bis(ethylamine) | 0.1350 mol, 20 g | C(OCCN)COCCN | C6H16N2O2
reactant | 4-methyl-2-pentanone | 31.0 g | CC(CC(C)=O)C | C6H12O
reactant | sodium carbonate | 120 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | N,N′-((ethane-1,2-diylbis(oxy))bis(ethane-2,1-diyl))bis(4-methylpentan-2-amine) | C(COCCNC(C)CC(C)C)OCCNC(C)CC(C)C | C18H40N2O2
